US08357718B2
To a stirred solution of 3-[(trans-4-methyl-cyclohexanecarbonyl)-piperidin-4-yl-amino]-thiophene-2-carboxylic acid methyl ester (1.0 g, 2.7 mmol), from step 3, in 1,2-dichloroethane (10 mL) was sequentially added aq. 37% HCHO solution (0.45 mL, 5.4 mmol) and NaBH(OAC)3 (2.86 g, 13.5 mmol) in one portion, stirred for over night, reaction was then quenched with aq. 10% NaOH solution, extracted with DCM. The combined organic extract was washed with brine, dried, and concentrated to obtain 3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid methyl ester (0.876 g, 85.5%) as a white solid. NMR 1H (CDCl3, 400 MHz): 7.54 (d, 1H), 6.86 (d, 1H), 4.7-4.6 (m, 1H), 3.85 (s, 3H), 2.9-2.7 (m, 2H), 2.22 (s, 3H), 2.15-1.1 (m, 14H), 0.8 (d, 3H), 0.75-0.5 (m, 2H).

reactant | 3-[(trans-4-methyl-cyclohexanecarbonyl)-piperidin-4-yl-amino]-thiophene-2-carboxylic acid methyl ester | 2.7 mmol, 1.0 g | COC(=O)C=1SC=CC1N(C1CCNCC1)C(=O)[C@@H]1CC[C@H](CC1)C | C19H28N2O3S
reactant | HCHO | 5.4 mmol, 0.45 mL | C=O | CH2O
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.876 g, 85.5% | COC(=O)C=1SC=CC1N(C1CCN(CC1)C)C(=O)[C@@H]1CC[C@H](CC1)C | C20H30N2O3S
